US08865726B2
To a solution of (S)-2-amino-2-(pyridin-3-yl)ethanol hydrochloride (0.255 g, 1.46 mmol) in water (2 mL) was added potassium hydroxide (0.573 g, 10.2 mmol) and the reaction stirred until complete dissolution occurred, followed by addition of THF (3 mL) and the reaction cooled to 0° C. To the reaction was next added triphosgene (0.433 g, 1.46 mmol) and the reaction allowed to warm up to ambient temperature and stirred for 18 hours. The reaction was concentrated and the adjusted to about pH 8 with 3N NaOH, and concentrated. The residue was purified on silica gel (2-10% 7N ammonia in MeOH in DCM) to provide (S)-4-(pyridin-3-yl)oxazolidin-2-one (0.054 g, 23% yield) as a beige solid.

reactant | (S)-2-amino-2-(pyridin-3-yl)ethanol hydrochloride | 1.46 mmol, 0.255 g | Cl.N[C@H](CO)C=1C=NC=CC1
reactant | potassium hydroxide | 10.2 mmol, 0.573 g | [OH-].[K+]
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | triphosgene | 1.46 mmol, 0.433 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | water | 2 mL | O | H2O
product | (S)-4-(pyridin-3-yl)oxazolidin-2-one | 0.054 g, 23% yield | N1=CC(=CC=C1)[C@@H]1NC(OC1)=O | C8H8N2O2
